* Z:\mnt\design.r\spice\examples\3754.asc
XU1 N009 N010 N011 N013 N014 N015 N016 N017 N006 N004 N005 N001 N001 MP_01 0 N003 N018 N020 N021 N023 N024 N026 N027 N029 N025 N008 N012 N022 N012 N019 N012 N028 0 LT3754
R1 N028 0 5.7K
R2 N025 0 200K
R3 N012 N019 20K
R4 N019 0 30.9K
R5 N007 0 10K
C1 N008 N007 2200p
R6 N012 N022 11K
R7 N022 0 20K
C2 N005 0 4.7µ
V1 N001 0 PWL(0 0 .5m 20)
M§Q1 N002 N004 N006 N006 Si4482DY
R8 0 N006 15m
D1 N002 N003 MBRS1100
C3 N003 0 2.2µ x5
D2 N003 N009 AOT-2015
D3 N003 N010 AOT-2015
D4 N003 N011 AOT-2015
D5 N003 N013 AOT-2015
D6 N003 N014 AOT-2015
D7 N003 N015 AOT-2015
D8 N003 N016 AOT-2015
D9 N003 N017 AOT-2015
D10 N003 N018 AOT-2015
D11 N003 N020 AOT-2015
D12 N003 N021 AOT-2015
D13 N003 N023 AOT-2015
D14 N003 N024 AOT-2015
D15 N003 N026 AOT-2015
D16 N003 N027 AOT-2015
D17 NC_02 N029 AOT-2015
L1 N001 N002 10µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m
.lib LT3754.sub
.backanno
.end
